US07977358B2
A] 4-Amino-3-methyl-piperidine-1-carboxylic acid tert-butyl ester
To an ice-cold solution of 1-benzyl-3-methyl-4-piperidone (5 g, 25 mmol) in MeOH (30 ml) was added, portionwise, sodium borohydride (1.1 g, 30 mmol). The mixture was allowed to reach room temperature and stirred for a further 45 minutes after which time the solvent was evaporated, the residue taken up in CH2Cl2 and washed with water, dried (Na2SO4) and concentrated. The residue was redissolved in MeOH, Boc anhydride (5.7 g, 25 mmol) and 10% palladium on charcoal (0.2 g) added and the mixture stirred under an atmosphere of hydrogen for 16 h, after which time it was filtered over Hyflo and concentrated. The residue (3.75 g, 17 mmol) was dissolved in CH2Cl2 (30 ml) with triethylamine (4.8 ml, 35 mmol), cooled to 0° C. and methanesulfonyl chloride (1.5 ml, 19 mmol) was added dropwise. On completion of the addition the reaction was washed with water, dried (Na2SO4) and concentrated. The crude mesylate (5.0 g, 17 mmol) was then redissolved in DMF (15 ml), sodium azide added (2.2 g, 34 mmol) and the mixture heated at 80° C. for 2 days. Water was then added to the reaction and the mixture repeatedly extracted with EtOAc, the combined organic was dried (Na2SO4) and concentrated. The crude azide (3.6 g, 15 mmol) was redissolved in MeOH (20 ml), Rainey nickel added (0.5 g) and the mixture stirred under an atmosphere of hydrogen for 16 h, after which time it was filtered over Hyflo and concentrated affording the title compound (2.5 g, 44%) as a yellow liquid. MS: 215.1 (MH+).

reactant | 1-benzyl-3-methyl-4-piperidone | 25 mmol, 5 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C | C13H17NO
reactant | sodium borohydride | 30 mmol, 1.1 g | [BH4-].[Na+]
reactant | Boc anhydride | 25 mmol, 5.7 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 35 mmol, 4.8 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 19 mmol, 1.5 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | mesylate | 17 mmol, 5.0 g | S(C)(=O)(=O)[O-]
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | azide | 15 mmol, 3.6 g | [N-]=[N+]=[N-]
solvent | MeOH | 30 ml | CO | CH4O
catalyst | palladium on charcoal | 0.2 g | [Pd] | Pd
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | MeOH | 20 ml | CO | CH4O
catalyst | nickel | [Ni] | Ni
solvent | Water | O | H2O
product | 4-Amino-3-methyl-piperidine-1-carboxylic acid tert-butyl ester | 2.5 g, 44% | C(C)(C)(C)OC(=O)N1CC(C(CC1)N)C | C11H22N2O2
